US04000275
4,8,9-Trimethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 2-chloro-5,6-dimethylbenzimidazole and 3-methylanthranilic acid.

reactant | 2-chloro-5,6-dimethylbenzimidazole | ClC=1NC2=C(N1)C=C(C(=C2)C)C | C9H9ClN2
reactant | 3-methylanthranilic acid | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
product | 4,8,9-Trimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | CC=1C=CC=C2C(N3C(=NC12)NC1=C3C=C(C(=C1)C)C)=O | C17H15N3O
